US07612114B2
(R)-6-{2-{[4-(2-Amino-2-methylpropoxy)-3-fluorobenzyl]ethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (R)-6-(2-ethylamino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester (20 mg) and tert-butyl [2-(2-fluoro-4-formylphenoxy)-1,1-dimethylethyl]carbamate (72 mg) according to an analogous synthetic method to Example 238 and purified by LC-MS, the title compound (19 mg) was obtained.

reactant | pivalic acid (R)-6-(2-ethylamino-4-methoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester | 20 mg | C(C)NC1=C(C=CC(=C1)OC)[C@H]1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O | C24H31NO3
reactant | tert-butyl [2-(2-fluoro-4-formylphenoxy)-1,1-dimethylethyl]carbamate | 72 mg | FC1=C(OCC(C)(C)NC(OC(C)(C)C)=O)C=CC(=C1)C=O | C16H22FNO4
product | (R)-6-{2-{[4-(2-Amino-2-methylpropoxy)-3-fluorobenzyl]ethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 19 mg | NC(COC1=C(C=C(CCCNC2=C(C=CC(=C2)OC)[C@H]2CC=3C=CC(=CC3CC2)O)C=C1)F)(C)C | C30H37FN2O3
